US05128479
2,2,5,7,8-pentamethylchroman-6-ol
257 g (1.69 mol) of 2,3,6-trimethylhydroquinone were introduced into a suspension of 248 g (1.86 mol) of anhydrous aluminum chloride in 850 ml of dry dichloromethane at 5° C. After stirring for 30 min, 160 g (1.86 mol) of 3-methyl-2-buten-1-ol were added dropwise at 5°-10° C. The mixture was stirred at room temperature overnight and then poured into ice-water, the precipitate was filtered off, the filtrate was extracted with dichloromethane, and the organic phase was washed with water to neutrality, dried over magnesium sulfate and evaporated. Distillation of the residue provided a main fraction of 153.3 g of the title compound at 140° C. and 0.4 mbar, and this was recrystallized from heptane with a melting point of 85°-88° C.

reactant | 2,3,6-trimethylhydroquinone | 1.69 mol, 257 g | CC1=C(O)C(=CC(=C1C)O)C | C9H12O2
reactant | aluminum chloride | 1.86 mol, 248 g | [Cl-].[Al+3].[Cl-].[Cl-]
reactant | 3-methyl-2-buten-1-ol | 1.86 mol, 160 g | CC(=CCO)C | C5H10O
solvent | dichloromethane | 850 ml | ClCCl | CH2Cl2
product | 2,2,5,7,8-pentamethylchroman-6-ol | 153.3 g | CC1(OC2=C(C(=C(C(=C2CC1)C)O)C)C)C | C14H20O2
